US06232290B1
To a solution of 4-piperidin-1-yl-benzonitrile (3 g) and thiosemicarbazide (1.8 g) in toluene (30 ml) was added trifluoroacetic acid (20 ml) and the mixture was stirred at 60° C. for 6 hours. The reaction mixture was placed in water, the solution was adjusted to pH 9 with 1N sodium hydroxide and the precipitate was collected by filtration to give 5-(4-piperidin-1-yl-phenyl)-[1,3,4]thiadiazol-2-yl-amine (3.58 g).

reactant | 4-piperidin-1-yl-benzonitrile | 3 g | N1(CCCCC1)C1=CC=C(C#N)C=C1 | C12H14N2
reactant | thiosemicarbazide | 1.8 g | NNC(=S)N | CH5N3S
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 5-(4-piperidin-1-yl-phenyl)-[1,3,4]thiadiazol-2-yl-amine | 3.58 g | N1(CCCCC1)C1=CC=C(C=C1)C1=NN=C(S1)N | C13H16N4S
